US07425568B2
2-[3-(3-Fluorophenyl)chroman-7-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) using 125 mg of 3-(3-fluorophenyl)-chroman-7-ol. The product was recrystallised from ethanol. 1H NMR (400 MHz, CDCl3) δ: 9.07 (d, 1H, J 2.8 Hz), 8.47 (dd, 1H, J 9.0, 2.8 Hz), 7.33 (m, 1H), 7.16 (d, 1H, J 8.9 Hz), 6.95-7.06 (m, 4H), 6.69-6.71 (m, 2H), 4.38 (dd, 1H, J 10.6, 4.3 Hz), 4.06 (t, 1H, 10.6 Hz), 3.30 (m, 1H), 3.06 (m, 2H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 3-(3-fluorophenyl)-chroman-7-ol | 125 mg | FC=1C=C(C=CC1)C1COC2=CC(=CC=C2C1)O | C15H13FO2
product | 2-[3-(3-Fluorophenyl)chroman-7-yloxy]-5-nitropyridine | FC=1C=C(C=CC1)C1COC2=CC(=CC=C2C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H15FN2O4
